data/mechanisms/records/IMS8-EQ8.82c.json
{"mechanism_id": "IMS8-EQ8.82c", "species": [{"species_id": "protonated_aldehyde_ester_ion", "mapped_smiles": "[CH:7](=[OH+:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[O:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "aldehyde_protonated_ester_ion", "mapped_smiles": "[CH:7](=[O:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[OH+:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_aldehyde_ester_ion"]}, {"state_id": "state_products", "species_ids": ["aldehyde_protonated_ester_ion"]}], "steps": [{"step_id": "step_rH_proton_transfer", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [11]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_82c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_proton_transfer", "support_type": "textbook_proposed", "locator": {"page": 198, "equation": "8.82", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Right-hand column of Equation 8.82, arrow labelled 'r H' pointing down from the top-right panel. Reactant: the even-electron oxocarbenium HC(=O(+)H)-(CH2)n-C(=O)-OCH3; product: the neutral aldehyde OHC-(CH2)n- with the ester now protonated on its methoxy oxygen, drawn 'H-O(+)(CH3)'. This is a PROTON transfer inside one ion, not an H-atom transfer: the ion is even-electron throughout. Book draws 2 arc(s), both FULL (double-barbed, two-electron) arrows: (i) one from the O(9)-H bond curling back onto O(9) (the bonding pair becoming a lone pair, releasing the proton) and (ii) one from the explicitly drawn lone pair (the ':' printed above the methoxy oxygen) reaching left toward that proton. Both drawn arrows begin or end on the migrating proton, which cannot carry an atom map (RDKit folds a mapped explicit H into implicit valence), so they are encoded as the one net heavy-atom-level move they produce: move <1> = the two-electron formal transfer from O(11) to O(9) (equivalently, the proton moves the other way). No implicit move is needed; the arrow gate sees no heavy-atom bond-order change, only the charge relocation, and reports the expected soft lone-pair parity notes on both oxygens. INSTANTIATION (the scheme is generic in R and in the chain length n): R = CH3 and n = 5, i.e. methyl 7-hydroxyoctanoate CH3-CH(OH)-(CH2)5-C(=O)-OCH3 (C9H18O3, M+. m/z 174.1250). n = 5 is the smallest chain that makes the final 'rH, a' step of this same scheme proceed through the favoured six-membered transition state, and it keeps the book's (CH2)n-3 label meaningful ((CH2)2). NO m/z and NO percentage is printed anywhere in Equation 8.82 except 'm/z 55' on the last product; every other mass in these records is the curator's computed monoisotopic value for this instantiation, not a measured number."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "70 eV EI (consecutive fragmentation of the m/z-159 oxocarbenium)", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 159.1016, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_isomer_159", "species_id": "aldehyde_protonated_ester_ion", "step_id": "step_rH_proton_transfer", "observed_mz": 159.1016, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
